** sch_path: /home/hx2003/Desktop/ttihp-delay/schematics/hx_charge_pump_current_generator.sch
.subckt hx_charge_pump_current_generator CURRENT_SINK VDD CURRENT_SOURCE VSS
*.PININFO VDD:I VSS:I CURRENT_SOURCE:O CURRENT_SINK:O
MM4002 net4 node1 VDD VDD sg13_lv_pmos w=4u l=1u ng=2 m=2
MM4009 net5 net1 VSS VSS sg13_lv_nmos w=4u l=1u ng=2 m=2
MM4008 net1 net1 VSS VSS sg13_lv_nmos w=4u l=1u ng=2 m=2
MM4003 CURRENT_SOURCE node1 VDD VDD sg13_lv_pmos w=4u l=1u ng=2 m=2
MM4000 node0 node1 VDD VDD sg13_lv_pmos w=4u l=1u ng=2 m=2
MM4001 node1 node1 VDD VDD sg13_lv_pmos w=4u l=1u ng=2 m=2
MM4004 node0 node0 VSS VSS sg13_lv_nmos w=4u l=1u ng=2
MM4005 node1 node0 net2 VSS sg13_lv_nmos w=4u l=1u ng=2 m=4
RR2 net2 VSS 8.3404k $SUB=sub! $[rppd] w=1e-6 l=32e-6 b=0
MM4102 net3 net3 VDD VDD sg13_lv_pmos w=0.36u l=2u ng=1
MM4100 node1 net3 node0 VSS sg13_lv_nmos w=4u l=1u ng=2
MM4101 net3 node0 VSS VSS sg13_lv_nmos w=4u l=1u ng=2 m=4
RR4 VSS sub! ptap1 A=6.084e-13 P=3.12e-06
MM4006 net4 net4 net1 VSS sg13_lv_nmos w=4u l=1u ng=2 m=2
MM4007 CURRENT_SINK net4 net5 VSS sg13_lv_nmos w=4u l=1u ng=2 m=2
.ends
.GLOBAL sub!
